US07420001B2
To a solution of 4-(3-methoxy-propyl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (2.213 g, 8.018 mol) in tetrahydrofuran (25 mL) and methanol (9 mL) at room temperature was added 1N LiOH (16.838 mL). The resulting yellow solution was stirred at room temperature for 2.5 hours, neutralized with 1N HCl and was then partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and reduced to dryness furnishing 1.98 g (98%) of 4-(3-methoxy-propyl)-3-methyl-benzofuran-2-carboxylic acid as a white solid. MS (ES) m/z: 249.11214 (M+H)+, 497.21700 (2M+H).

reactant | 4-(3-methoxy-propyl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 8.018 mol, 2.213 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CCCOC | C16H20O4
reactant | LiOH | 1N, 16.838 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol | 9 mL | CO | CH4O
product | 4-(3-methoxy-propyl)-3-methyl-benzofuran-2-carboxylic acid | 1.98 g, 98% | COCCCC1=CC=CC2=C1C(=C(O2)C(=O)O)C | C14H16O4
